US05021429
(a) 2-[3-[3-(N,N-Dimethylaminomethyl)phenoxy]propyl]-1H-isoindole-1,3(2H)-dione
A mixture of 80% sodium hydride (2.2 g) and 3-(N,N-dimethylaminomethyl)phenol (6.95 g) in dry dimethylformamide was stirred at 5° for 2 hr. N-(3-Bromopropyl)phthalimide (12.2 g) was then added and after 16 hours the reaction was treated with water and extracted with ethyl acetate. Evaporation of the dried organic extracts gave the title compound as a yellow oil (13 g). TLC silica; ethyl acetate; Rf 0.35. m.p. (oxalate salt) 204°-207°.

reactant | sodium hydride | 2.2 g | [H-].[Na+]
reactant | 3-(N,N-dimethylaminomethyl)phenol | 6.95 g | CN(C)CC=1C=C(C=CC1)O | C9H13NO
reactant | N-(3-Bromopropyl)phthalimide | 12.2 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-[3-[3-(N,N-Dimethylaminomethyl)phenoxy]propyl]-1H-isoindole-1,3(2H)-dione | 13 g | CN(C)CC=1C=C(OCCCN2C(C3=CC=CC=C3C2=O)=O)C=CC1 | C20H22N2O3
